US04786644
A stirred slurry of 2.3 g of sodium hydride in 100 ml of dry tetrahydrofuran was treated with 6.1 g of 2-amino-5-chloropyridine and immersed in an ultrasonic bath for 30 minutes. The stirred slurry was then treated with a solution of 7.0 g of 4-hydroxy-1-phenyl-3-isoquinolinecarboxylic acid, ethyl ester in 70 ml of tetrahydrofuran and refluxed for 16 hours. Thereafter, the solution was cooled to room temperature and quenched with 20 ml of water. The resulting precipitate was solubilized in 500 ml of aqueous methanol and treated with carbon dioxide gas. Recrystallization of the precipitate from 500 ml of warm dimethylformamide afforded 7.5 g (84%) of N-(5-chloro-2-pyridyl)-4-hydroxy-1-phenyl-3-isoquinolinecarboxamide, m.p. 249°-251° C.

reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 2-amino-5-chloropyridine | 6.1 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | 4-hydroxy-1-phenyl-3-isoquinolinecarboxylic acid, ethyl ester | 7.0 g | OC1=C(N=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H15NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | N-(5-chloro-2-pyridyl)-4-hydroxy-1-phenyl-3-isoquinolinecarboxamide | 7.5 g, 84% | ClC=1C=CC(=NC1)NC(=O)C=1N=C(C2=CC=CC=C2C1O)C1=CC=CC=C1 | C21H14ClN3O2
